US04057530
2-(4'-Hydroxy-phenyl)-indole
A mixture of 40.8 g (0.3 mol) of 4-hydroxy-acetophenone, 33 ml (0.3 mol) of phenylhydrazine, 100 ml of ethanol and 1.5 ml of acetic acid was refluxed under nitrogen for 10 hours.

reactant | phenylhydrazine | 0.3 mol, 33 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 2-(4'-Hydroxy-phenyl)-indole | OC1=CC=C(C=C1)C=1NC2=CC=CC=C2C1 | C14H11NO
